US04656259
Preparation of N-ethyl-N'-(β-D-xylosyl)-N-nitrosourea
A mixture of 3 g of D-xylose, 1.9 g of ethylurea, 0.3 g of nitroaniline and 0.2 ml of a concentrated hydrochloric acid is refluxed in 15 ml of ethanol for 10 minutes. The precipitate in the amount of 2.8 g is separated, then added with 15 ml of glacial acetic acid, 2.5 ml of distilled water and 1.74 g of sodium nitrite and stirred for 2 hours at 0° C. The solution is evaporated and recrystallized from an alcohol to give 2.54 g (80% of the theoretical) of the product. M.p. 104° C. (decomposition), [α]D -13.6° (water), Rf =0.76. Found, %: N 16,42. Calculated, %: N 16.86.

reactant | D-xylose | 3 g | O=C[C@H](O)[C@@H](O)[C@H](O)CO | C5H10O5
reactant | ethylurea | 1.9 g | C(C)NC(=O)N | C3H8N2O
reactant | nitroaniline | 0.3 g | [N+](=O)([O-])NC1=CC=CC=C1 | C6H6N2O2
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | N-ethyl-N'-(β-D-xylosyl)-N-nitrosourea | C(C)N(C(=O)N[C@H]1[C@H](O)[C@@H](O)[C@H](O)CO1)N=O | C8H15N3O6
